US05489593
1-[6-(N,N-Dimethylamino)indolyl-2-carbonyl]-4-[3-(1-methylethylamino)-2-pyridinyl]piperazine (III)
Following the general procedure of EXAMPLE 16A and making non-critical variations but starting with 6-(N,N-dimethylamino)indole-2-carboxylic acid (PREPARATION 89, 0.40 g), 1-[3-(1-methylethylamino)-2-pyridinyl]piperazine (0.43 g) and 1-(ethyl)-3-(dimethylaminopropyl) carbodiimide (0.45 g), the title compound is obtained, mp 153°-154°.

reactant | 6-(N,N-dimethylamino)indole-2-carboxylic acid | 0.40 g | CN(C)C1=CC=C2C=C(NC2=C1)C(=O)O | C11H12N2O2
reactant | 1-[3-(1-methylethylamino)-2-pyridinyl]piperazine | 0.43 g | CC(C)NC=1C(=NC=CC1)N1CCNCC1 | C12H20N4
reactant | 1-(ethyl)-3-(dimethylaminopropyl) carbodiimide | 0.45 g | C(C)N=C=NCCCN(C)C | C8H17N3
product | 1-[6-(N,N-Dimethylamino)indolyl-2-carbonyl]-4-[3-(1-methylethylamino)-2-pyridinyl]piperazine | CC(C)NC1=C(N=CC=C1)N2CCN(CC2)C(=O)C3=CC4=C(N3)C=C(C=C4)N(C)C | C23H30N6O
